US04590189
2,3,6,7-Tetrahydro-7-hydroxy-6-(4-methoxyphenyl)-5H-1,4-dithiino[2,3-C]pyrrol-5-one (1.48 g) and piperidinocarbonylmethylenetriphenylphosphorane (3.4 g) were dissolved in toluene (30 ml) under heating, and the solution was refluxed for 12 hours. The reaction mixture was concentrated and the residue was subjected to silica gel column chromatography (methylene chloride:ethyl acetate=10:1). The thus-obtained crude crystals were recrystallized from ethyl acetate-ether to give crystals (1.45 g) of 2,3,6,7-tetrahydro-6-(4-methoxyphenyl)-7-piperidinocarbonylmethyl-5H-1,4-dithiino[2,3-C]pyrrol-5-one, melting at 163°-164° C. and 183°-185° C. (double melting).

reactant | 2,3,6,7-Tetrahydro-7-hydroxy-6-(4-methoxyphenyl)-5H-1,4-dithiino[2,3-C]pyrrol-5-one | 1.48 g | OC1N(C(C2=C1SCCS2)=O)C2=CC=C(C=C2)OC | C13H13NO3S2
reactant | piperidinocarbonylmethylenetriphenylphosphorane | 3.4 g | N1(CCCCC1)C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H26NOP
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3,6,7-tetrahydro-6-(4-methoxyphenyl)-7-piperidinocarbonylmethyl-5H-1,4-dithiino[2,3-C]pyrrol-5-one | 1.45 g | COC1=CC=C(C=C1)N1C(C2=C(C1=O)SCCS2)CC(=O)N2CCCCC2 | C20H24N2O3S2
